US07183270B2
Part C Preparation of 4,6-Dichloro-2-propyl-quinazoline
6-Chloro-2-propyl-quinazolin-4-ol (810 mg, 3.64 mmol, 1 eq.), phosphorous oxychloride (3.30 mL, 35.1 mmol, 9.64 eq.) and triethylamine (1.63 mL, 11.7 mmol, 3.21 eq.) were refluxed for 2 hours. Stripped 3× from methylene chloride then dissolved in methylene chloride and rinsed 3× with saturated sodium bicarbonate, 1× with brine. Dried and stripped in vacuo to give an amber oil. Purified over silica gel in 9:1 Hexanes/EtOAc. Obtained 510 mg of off-white solids as product. The product was used immediately in Example 121 Part D.

reactant | 6-Chloro-2-propyl-quinazolin-4-ol | 3.64 mmol, 810 mg, 1 eq. | ClC=1C=C2C(=NC(=NC2=CC1)CCC)O | C11H11ClN2O
reactant | phosphorous oxychloride | 35.1 mmol, 3.30 mL, 9.64 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 11.7 mmol, 1.63 mL, 3.21 eq. | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-2-propyl-quinazoline | 510 mg | ClC1=NC(=NC2=CC=C(C=C12)Cl)CCC | C11H10Cl2N2
